US07279576B2
To a solution of N-(3-amino-4-methyl-phenyl) acetamide (5 g, 25 mmol) in DMF (5 mL) was added 2-chloro-pyrimidine (3.8 g, 33 mmol)-and KI (0.5 g), which was stirred at 100° C. overnight, cooled to 10° C. and added to H2O (100 mL). The resulting mixture was extracted with CH2Cl2 (2×100 mL), the combined organic layers dried (Na2SO4) and concentrated in vacuo. The residue was dissolved in conc. HCl (10 mL), stirred at 80° C. for 2 h and concentrated in vacuo to yield 6-methyl-N1-(4-phenylpyrimidin-2-yl)benzene-1,3-diamine hydrochloride (3.75 g, 75%). 1H NMR (CDCl3): 8.36 (dd, J=15.2 & 4.8 Hz, 2H), 7.46 (d, J=2.4 Hz, 1H), 6.97 (d, J=8.0 Hz, 1H), 7.26 (s, 1H), 6.67 (t, J=4.8 Hz, 1H), 6.39 (dd, J=8.0, 2.4, Hz, 1H), 2.20 (s, 3H); MS (ESI) m/e: 201 (M++1).

reactant | N-(3-amino-4-methyl-phenyl) acetamide | 25 mmol, 5 g | NC=1C=C(C=CC1C)NC(C)=O | C9H12N2O
reactant | 2-chloro-pyrimidine | 33 mmol, 3.8 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-methyl-N1-(4-phenylpyrimidin-2-yl)benzene-1,3-diamine hydrochloride | 3.75 g, 75% | Cl.CC1=CC=C(C=C1NC1=NC=CC(=N1)C1=CC=CC=C1)N | InChI=1S/C17H16N4.ClH/c1-12-7-8-14(18)11-16(12)21-17-19-10-9-15(20-17)13-5-3-2-4-6-13;/h2-11H,18H2,1H3,(H,19,20,21);1H
